US05885967
C) Preparation of Cbz-D-hPro-N(Me)Gly-OH
To a solution of Cbz-D-hPro-N(Me)Gly-OEt (6 g, 16.6 mmol) in p-dioxane (200 mL) was added a solution of LiOH.H2O (2.78 g, 66.2 mmol) in water (100 mL) with vigorous stirring. After stirring for 12 hours, the solution was concentrated to a volume of 50 mL, diluted with water (100 mL), and extracted twice with diethyl ether (200 mL). The aqueous phase was adjusted to pH 2 with 5N aqueous HCl and extracted three times with ethyl acetate (150 mL). The combined ethyl acetate extracts were dried with MgSO4, filtered, and concentrated to give a white solid (5 g, 91%).

reactant | Cbz-D-hPro-N(Me)Gly-OEt | 16.6 mmol, 6 g | N1([C@@H](C(=O)N(CC(=O)OCC)C)CCCC1)C(=O)OCC1=CC=CC=C1 | C19H26N2O5
reactant | LiOH.H2O | 66.2 mmol, 2.78 g | O[Li].O
solvent | p-dioxane | 200 mL | O1CCOCC1 | C4H8O2
solvent | water | 100 mL | O | H2O
product | Cbz-D-hPro-N(Me)Gly-OH | 5 g, 91% | N1([C@@H](C(=O)N(CC(=O)O)C)CCCC1)C(=O)OCC1=CC=CC=C1 | C17H22N2O5
